US04088695
8N Jones reagent (100 ml.) was added dropwise to a stirred solution of 1-chloro-2-hydroxy-3-phenoxypropane (28.3 g.) in acetone (100 ml.) during 1 hour while maintaining the reaction temperature at 20° C. The mixture was then stirred for 4 hours, and then sufficient water was added to dissolve the precipitated chromium salts. The mixture was extracted three times with diethyl ether and the combined ethereal extracts were dried over sodium sulphate, concentrated under reduced pressure, dried again over sodium sulphate, and concentrated further and distilled, to give 1-chloro-3-phenoxyacetone (13.9 g.), b.p. 150°-155° C./20 mm.Hg.

reactant | Jones reagent | 8N, 100 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 1-chloro-2-hydroxy-3-phenoxypropane | 28.3 g | ClCC(COC1=CC=CC=C1)O | C9H11ClO2
reactant | water | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
catalyst | chromium | [Cr] | Cr
product | 1-chloro-3-phenoxyacetone | 13.9 g | ClCC(=O)COC1=CC=CC=C1 | C9H9ClO2
